Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right cerebellar mass
 
Major Surgical or Invasive Procedure:
___ - Suboccipital craniotomy for resection of right
cerebellar mass

 
History of Present Illness:
___ is a ___ year old female with a known right 
cerebellar mass initially discovered on oncologic surveillance 
imaging in the setting of known ___ who presented electively 
on ___ for a suboccipital craniotomy for resection of the 
right cerebellar mass.
 
Past Medical History:
- Breast cancer
- Cervical cancer
- NSCLC
- osteopenia 
- CKD stage II
 
Social History:
___
Family History:
Father who had bladder cancer.
 
Physical Exam:
On Discharge:
-------------
Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious [ ]None
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex [ ]None
Pupils: PERRL
EOMs: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Drift: [ ]Yes [x]No
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:
        Trap   Deltoid   Biceps   Triceps   Grip
Right   5      5         5        5         5
Left    5      5         5        5         5

        IP   Quad   Ham   AT   ___   ___
Right   5    5      5     5    5     5
Left    5    5      5     5    5     5

Sensation: Grossly intact to light touch.

Wound: 
- Open to air
- Clean, dry, intact
- Sutures

 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ is a ___ year old female with a known right 
cerebellar mass initially discovered on oncologic surveillance 
imaging in the setting of known ___ who presented electively 
on ___ for a suboccipital craniotomy for resection of the 
right cerebellar mass.

#Right cerebellar mass
The patient presented electively on ___ and was taken to 
the OR for a suboccipital craniotomy for resection of the right 
cerebellar mass. The operation was uncomplicated. Please see 
separate operative report by Dr. ___ further details. The 
patient was extubated in the OR and recovered in the PACU. 
Postoperative imaging showed expected postoperative changes. She 
was transferred to the step down unit postoperatively for close 
neurologic monitoring. The patient remained neurologically 
stable. She was started on a Dexamethasone taper to off. Neuro 
Oncology and Radiation Oncology followed the patient during her 
admission. Patient remained stable and was discharged to home on 
___ with planned follow up with Neuro and Radiation Oncology 
on ___. 

#Constipation, abdominal pain
The patient complained of significant constipation and abdominal 
pain while admitted. Her abdomen remained soft and 
non-distended. Her bowel regimen was increased with minimal 
effect. A KUB was ordered on ___ and showed no evidence 
of ileus. Simethicone was added for gas with good effect. 
Patient had a bowel movement on ___. Abdominal pain improved 
by day of discharge. 

#Disposition
The patient mobilized with the nurse and was determined to be 
independent with mobilization. By time of discharge she was 
ambulating and voiding independently and pain was well 
controlled. 

 
Medications on Admission:
- citalopram 20mg PO once daily
- omeprazole ___ 20mg PO once daily
- osimertinib 80mg PO once daily
- oxycodone ___ PO Q4H PRN
- pentoxifylline ER 400mg PO daily (To prevent radiation 
fibrosis)
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Do not take more than 4 grams per day. 
RX *acetaminophen 325 mg ___ tablet(s) by mouth q6h PRN Disp 
#*60 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY  
3.  Dexamethasone 4 mg PO Q8H Duration: 6 Doses 
Taper: ___ q8h; ___ 4mg BID; ___ 3mg BID; 
___ 2mg BID; ___ daily 
RX *dexamethasone 1 mg ___ tablet(s) by mouth As directed by 
taper Disp #*50 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Milk of Magnesia ___ mL PO Q6H:PRN Constipation - Second 
Line  
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
7.  Senna 8.6 mg PO BID  
8.  Simethicone 40-80 mg PO QID:PRN Gas  
9.  Citalopram 20 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  osimertinib 80 mg oral DAILY  
12.  Pentoxifylline 400 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right cerebellar mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, independent.

 
Discharge Instructions:
Surgery:
- You underwent surgery to remove a brain mass from your brain.
- You may shower at this time, but please keep your surgical 
incision dry until your sutures are removed. 
- If your incision gets wet, pat dry with a clean towel.
- It is best to keep your surgical incision open to air, but it 
is okay to cover it when outside.
- Please call your neurosurgeon if there are any signs of 
infection such as fever, pain, redness, swelling, or drainage 
from your surgical incision.

Activity:
- You may take leisurely walks and slowly increase your activity 
at your once pace once you are symptom free at rest. Don't try 
to do too much all at once.
- We recommend that you avoid heavy lifting, running, climbing, 
and other strenuous exercise until your follow-up.
- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for at least 6 months.
- No driving while taking narcotics or any other sedating 
medications.
- If you experienced a seizure, you are not allowed to drive by 
law.

Medications:
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- Please do not take any blood thinning medications such as 
aspirin, clopidogrel (Plavix), ibuprofen, warfarin (Coumadin), 
etc. until cleared by your neurosurgeon.
- You have been discharged on a Dexamethasone taper to off. 
Please take as ordered. You should continue to take Omeprazole 
at home to protect your stomach while taking Dexamethasone. 

Dex taper:
___ q8h
___ q12h
___ q12h
___ q12h
___ q12h
___ q12h
___ q12h
___ daily 

What You ___ Experience:
- You may experience headaches and pain at the surgical 
incision.
- You may also experience some postoperative swelling around 
your face and eyes. This is normal after surgery. You may apply 
ice or a cool or warm washcloth to help with this. It will be 
its worst in the morning after laying flat while sleeping but 
should decrease once up.
- You may experience soreness with chewing. This is normal after 
surgery and will improve with time. Softer foods may be easier 
during this time.
- Feeling more tired or restless is common.
- Constipation is also common. Be sure to drink plenty of fluids 
and eat a high fiber diet. You may also try an over the counter 
stool softener if needed.

Please Call Your Neurosurgeon At ___ For:
- Fever greater than 101.4 degrees Fahrenheit.
- Severe pain, redness, swelling, or drainage from the surgical 
incision.
- Severe headaches not relieved by prescribed pain medications.
- Extreme sleepiness or not being able to stay awake.
- Any new problems with your vision or ability to speak. 
- Weakness or changes in sensation in your face, arms, or legs.
- Nausea or vomiting.
- Seizures.

Call ___ And Go To The Nearest Emergency Department If You 
Experience Any Of The Following:
- Sudden severe headaches with no known reason.
- Sudden dizziness, trouble walking, or loss of balance or 
coordination.
- Sudden confusion or trouble speaking or understanding.
- Sudden weakness or numbness in the face, arms, or legs.
 
Followup Instructions:
___